US04407930
A. 1-Amino-5-(m-dioctadecylcarbamoylbenzenesulfonamido)-2-naphthol
A mixture of the azo dye, 1-(2,5-dichlorophenylazo)-5-(m-dioctadecylcarbamoylbenzenesulfonamido)-2-naphthol (10.2 g, 0.01 mol) and 10 percent palladium on carbon (1.5 g) was hydrogenated at 40 psi and room temperature for 2 hours. The catalyst was filtered and the solution kept under nitrogen during its immediate use in the above reaction.

reactant | 1-(2,5-dichlorophenylazo)-5-(m-dioctadecylcarbamoylbenzenesulfonamido)-2-naphthol | 0.01 mol, 10.2 g | ClC1=C(C=C(C=C1)Cl)N=NC1=C(C=CC2=C(C=CC=C12)NS(=O)(=O)C1=CC(=CC=C1)C(N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC)=O)O | C59H88Cl2N4O4S
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 1-Amino-5-(m-dioctadecylcarbamoylbenzenesulfonamido)-2-naphthol | NC1=C(C=CC2=C(C=CC=C12)NS(=O)(=O)C1=CC(=CC=C1)C(N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC)=O)O | C53H87N3O4S
